US06124314
(3-Cyano-phenyl)-acetic acid methyl ester.
Nitrogen was bubbled through a mixture of (3-bromo-phenyl)-acetic acid methyl ester (26.12 g, 114.02 mmol), Zn(CN)2 (8.37 g, 71.3 mmol), and DMF (300 mL) for about 5 minutes followed by addition of tetrakistriphenylphosphine(0) palladium (5.0 g, 4.3 mmol). The mixture was heated for 1.5 h at 90° C. and was cooled to room temperature. Aqueous 2N NH4OH was added and the product was extracted into EtOAc (3×). The organic solution was washed with 2N NH4OH (1×) followed by brine (2×). The organic solution was dried (MgSO4), filtered, and concentrated in vacuo. Purification by medium pressure chromatography (9:1 hexanes:EtOAc) provided the title compound of Step A as an oil (18.06 g). 1H NMR (400 MHz, CDCl3) δ 7.57-7.41 (m, 4H), 3.706 (s, 3H), 3.703 (s, 2H).

reactant | (3-bromo-phenyl)-acetic acid methyl ester | 114.02 mmol, 26.12 g | COC(CC1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | NH4OH | 2N | [NH4+].[OH-]
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 71.3 mmol, 8.37 g | [C-]#N.[C-]#N.[Zn+2]
product | (3-Cyano-phenyl)-acetic acid methyl ester | 18.06 g | COC(CC1=CC(=CC=C1)C#N)=O | C10H9NO2
